US04168269
4,9-Dihydro-9-ethyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
An 11.8 g. portion of 4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one is reacted with 2.8 g. of 50% sodium hydride in mineral oil in 175 ml. of dimethylformamide. After 2 hours 11.5 g. of ethyl iodide is added and the mixture is stirred overnight at room temperature. The reaction mixture is poured into ice-water. After 3 hours the brown crystals are collected, washed with water and then ether and dried. The solid is heated to boiling in 75 ml. of methanol, filtered and the filtrate is treated with charcoal, reheated to the boil and filtered through diatomaceous earth. To the filtrate is added, portionwise with swirling, 100 ml. of water. The mixture is cooled in a chill room and the solid is collected, washed with ether and dried giving the desired product, mp. 175°-177° C.

reactant | 4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C=1SC=C2NC3=C(NC(C21)=O)C=CC=C3 | C11H8N2OS
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl iodide | C(C)I | C2H5I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4,9-Dihydro-9-ethyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C(C)N1C(C=2C(NC3=C1C=CC=C3)=CSC2)=O | C13H12N2OS
